US04314998
Isopropyl t-butyloxycarbonyl-D-isoglutaminate (176 mg, 0.61 mmol) was treated with trifluoroacetic acid (1 ml) at room temperature for 20 minutes. Trifluoroacetic acid was evaporated and the residue was washed thoroughly with a mixture of diethyl ether-petroleum ether (1:1) and dried in a desiccator over sodium hydroxide pellets. The resulting trifluoroacetic acid salt was dissolved in acetonitrile (10 ml) together with triethylamine (0.19 ml). To this solution was added t-butyloxycarbonyl-O-benzyl-L-serine HOSuc ester (274 mg, 0.7 mmol), and the mixture was allowed to react for 15 hours at room temperature. The solvent was evaporated and the residue was dissolved in ethyl acetate (20 ml). The solution was washed successively with a 5% aqueous sodium bicarbonate solution, 1 N hydrochloric acid and water, dried over anhydrous sodium sulfate, and evaporated. The residue was crystallized by addition of petroleum ether and the resulting crystals were filtered to obtain isopropyl t-butyloxycarbonyl-O-benzyl-L-seryl-D-isoglutaminate (243 mg). Melting point, 98°-99° C. [α]D22 +2.0° (c 0.5, DMF). Rf2 =0.50; Rf3 =0.78.

reactant | Isopropyl t-butyloxycarbonyl-D-isoglutaminate | 0.61 mmol, 176 mg | C(C)(C)(C)OC(=O)N[C@H](CCC(=O)OC(C)C)C(N)=O | C13H24N2O5
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyloxycarbonyl-O-benzyl-L-serine | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
product | isopropyl t-butyloxycarbonyl-O-benzyl-L-seryl-D-isoglutaminate | 243 mg | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@H](CCC(=O)OC(C)C)C(N)=O | C23H35N3O7
